US08110578B2
7-(2-Amino-4-methyl-1H-benzo[d]imidazol-6-yl)-1-((tetrahydro-2H-pyran-4-yl)Methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
Ethyl 2-(5-bromo-3-((tetrahydro-2H-pyran-4-yl)methylamino)pyrazin-2-ylamino)acetate. Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate (2.00 g, 5.90 mmol), (tetrahydro-2H-pyran-4-yl)methanamine (0.713 g, 6.19 mmol), N,N-diisopropylethylamine (3.08 mL, 17.70 mmol) and dimethylsulfoxide (4 mL) were combined in a microwave vial with a stirbar and heated in a Biotage Emrys Optimizer microwave reactor at 150° C. for 1 h. The resulting mixture was transferred to a round bottom flask with methanol. The methanol and N,N-diisopropylethylamine were removed under reduced pressure and the residue purified using Biotage flash chromatography (5-100% ethyl acetate in hexane). Fractions containing the desired product were combined in a separatory funnel and washed twice with water and once with brine. The organics were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was dried under high vacuum at 50° C. to give impure desired product (1.578 g) as an amber waxy solid which was taken on to the next step without further purification. MS (ESI) m/z 373.4 [M]+, 375.4 [M+2]+.

reactant | Ethyl 2-(5-bromo-3-((tetrahydro-2H-pyran-4-yl)methylamino)pyrazin-2-ylamino)acetate | BrC=1N=C(C(=NC1)NCC(=O)OCC)NCC1CCOCC1 | C14H21BrN4O3
reactant | Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate | 5.90 mmol, 2.00 g | BrC=1C(=NC=C(N1)Br)NCC(=O)OCC | C8H9Br2N3O2
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | 6.19 mmol, 0.713 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropylethylamine | 17.70 mmol, 3.08 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | CO | CH4O
solvent | dimethylsulfoxide | 4 mL | CS(=O)C | C2H6OS
product | 7-(2-Amino-4-methyl-1H-benzo[d]imidazol-6-yl)-1-((tetrahydro-2H-pyran-4-yl)Methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1.578 g | NC1=NC2=C(N1)C=C(C=C2C)C2=CN=C1C(=N2)N(C(CN1)=O)CC1CCOCC1 | C20H23N7O2
